US08604033B2
According to Scheme 1 Step 5: A solution of 1-(4-methoxybenzyl)-1H-pyrazole-4-carbothioamide (26.7 mmol, 6.60 g), ethyl 3-bromo-2-oxopropanoate (29.4 mmol, 4.62 mL) and pyridine (29.4 mmol, 2.37 mL) in acetone (53 mL) was stirred at room temperature for 2 hours and at 45° C. for 52 hours. After evaporation, the crude residue was partitioned between EtOAc and a saturated solution of Na2CO3. The aqueous phase was extracted with EtOAc and then with DCM. The organic phase was washed with brine, was dried over MgSO4, was filtered and was concentrated under reduced pressure. The crude residue was purified by flash chromatography over silica gel using DCM/EtOAc (100:0 to 70:30) to yield ethyl 2-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)thiazole-4-carboxylate (15.4 mmol, 5.28 g, 58%) as a dark oil.

reactant | 1-(4-methoxybenzyl)-1H-pyrazole-4-carbothioamide | 26.7 mmol, 6.60 g | COC1=CC=C(CN2N=CC(=C2)C(N)=S)C=C1 | C12H13N3OS
reactant | ethyl 3-bromo-2-oxopropanoate | 29.4 mmol, 4.62 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | pyridine | 29.4 mmol, 2.37 mL | N1=CC=CC=C1 | C5H5N
solvent | acetone | 53 mL | CC(=O)C | C3H6O
product | ethyl 2-(1-(4-methoxybenzyl)-1H-pyrazol-4-yl)thiazole-4-carboxylate | 15.4 mmol, 5.28 g, 58% | COC1=CC=C(CN2N=CC(=C2)C=2SC=C(N2)C(=O)OCC)C=C1 | C17H17N3O3S
